US04824845
Example 3: Production of 2-cyclopropylamino-4-acetylamino-6-amino-1,3,5-triazine
To a suspension of 49.8 g of 2,4-diamino-6-cyclopropylamino-1,3,5-triazine and 45.5 g of triethylamine in 1200 ml of tetrahydrofuran are slowly added dropwise, at about 60° C. (in about 6 hours), 31.7 g of acetic acid anhydride dissolved in 100 ml of tetrahydrofuran. The reaction mixture is subsequently refluxed for 18 hours, filtered hot and then concentrated by evaporation until crystallisation commences. After the addition of about 300 ml of diethyl ether, the product if filtered off as white crystalline powder. It has a melting point of 190°-195° C.

reactant | 2,4-diamino-6-cyclopropylamino-1,3,5-triazine | 49.8 g | NC1=NC(=NC(=N1)N)NC1CC1 | C6H10N6
reactant | triethylamine | 45.5 g | C(C)N(CC)CC | C6H15N
reactant | acetic acid anhydride | 31.7 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | tetrahydrofuran | 1200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-cyclopropylamino-4-acetylamino-6-amino-1,3,5-triazine | C1(CC1)NC1=NC(=NC(=N1)NC(C)=O)N | C8H12N6O
